US05332726
(S)-BOC-(2-benzyl)-3-azidopropyl glycine methyl ester (0.19 g, 0.52 mmol) is dissolved in methanol/chloroform (15:1) (8 ml) and hydrogenated at atmospheric pressure over 10% palladium on carbon for 5 hours. The mixture is filtered, concentrated in vacuo, and the residue triturated with ether/benzene and reconcentrated to give (S)-BOC-(2-benzyl)-ornithine methyl ester hydrochloride.

reactant | (S)-BOC-(2-benzyl)-3-azidopropyl glycine methyl ester | 0.52 mmol, 0.19 g | COC([C@@H](N(CCCN=[N+]=[N-])C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C18H26N4O4
reactant | methanol chloroform | 8 ml | CO.C(Cl)(Cl)Cl
catalyst | palladium on carbon | [Pd] | Pd
product | (S)-BOC-(2-benzyl)-ornithine methyl ester hydrochloride | Cl.COC([C@](NC(=O)OC(C)(C)C)(CCCN)CC1=CC=CC=C1)=O | InChI=1S/C18H28N2O4.ClH/c1-17(2,3)24-16(22)20-18(11-8-12-19,15(21)23-4)13-14-9-6-5-7-10-14;/h5-7,9-10H,8,11-13,19H2,1-4H3,(H,20,22);1H/t18-;/m0./s1
